US05155108
Production of 6-[(2,2-dimethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine hydrochloride
30% Hydrochloric acid-methanol solution (5 ml) was added to a solution of 1.71 g of 6-[(2,2-dimethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine in 100 ml of methanol. The mixture was concentrated under reduced pressure to dryness. The residue was recrystallized from ethanol to obtain 1.7 g of the title compound.

reactant | Hydrochloric acid methanol | 5 ml | Cl.CO
reactant | 6-[(2,2-dimethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine | 1.71 g | CC(COC=1C=CC=2N(N1)C=CN2)(CS(N)(=O)=O)C | C11H16N4O3S
solvent | methanol | 100 ml | CO | CH4O
product | 6-[(2,2-dimethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine hydrochloride | 1.7 g | Cl.CC(COC=1C=CC=2N(N1)C=CN2)(CS(N)(=O)=O)C | InChI=1S/C11H16N4O3S.ClH/c1-11(2,8-19(12,16)17)7-18-10-4-3-9-13-5-6-15(9)14-10;/h3-6H,7-8H2,1-2H3,(H2,12,16,17);1H
